12x830_variable_pulses_3kV
************************
* B2 Spice
************************
* B2 Spice default format (same as Berkeley Spice 3F format)
***** dependent-child subcircuit definitions

***** main subcircuit definitions
***** parameter-based internally generated macro-models

***** main circuit
IVm 1  0 0
L_pinch 2  0  300n 
VAM_pinch 3  4 0
IV_zap 4  0 0
V0 1  0 DC 0 PWL ( 0u 0 2u 0  2.1u 3.1 32u 3.1 32.1u 6.1)
VAm01 5  3 0
L10 6  7  1.122u 
R11 8  6  3.33m 
VAm_d24 9  0 0
R_pinch 4  2  7.5m 
VAm_d1 10  0 0
VAm12 11  3 0
VAm11 12  3 0
Switch1 13  14  1 0 switch_1 off 
Switch12 15  16  1 0 switch_12 off 
VAm02 17  3 0
Switch2 18  19  1 0 switch_2 off 
Switch11 20  21  1 0 switch_11 off 
VAm03 22  3 0
L58 23  11  300n 
L57 24  12  300n 
L56 25  26  300n 
Switch10 27  28  1 0 switch_10 off 
L55 29  30  300n 
L54 31  32  300n 
L53 33  34  300n 
L52 35  36  300n 
L51 37  38  300n 
VAm04 39  3 0
L50 40  39  300n 
L49 41  22  300n 
L48 42  17  300n 
Switch9 43  44  1 0 switch_9 off 
L47 7  5  300n 
R58 45  0  4 
C34 15  46  1u  ic = 3k 
R57 47  0  4 
VAm05 38  3 0
C33 15  45  1u  ic = 3k 
Switch8 48  49  1 0 switch_8 off 
R56 50  0  4 
C32 51  0  830u  ic = 3k 
R55 52  0  4 
C31 20  53  1u  ic = 3k 
R54 54  0  4 
VAm06 36  3 0
C30 20  47  1u  ic = 3k 
Switch7 55  56  1 0 switch_7 off 
R53 57  0  4 
C29 58  0  830u  ic = 3k 
R40 46  59  4 
C28 27  60  1u  ic = 3k 
R39 53  61  4 
C27 27  50  1u  ic = 3k 
R38 60  62  4 
VAm07 34  3 0
Switch6 63  64  1 0 switch_6 off 
C26 65  0  830u  ic = 3k 
R37 66  67  4 
C25 43  66  1u  ic = 3k 
R36 68  69  4 
Switch5 70  71  1 0 switch_5 off 
C24 43  52  1u  ic = 3k 
R35 72  73  4 
L46 74  75  40n 
R52 51  74  2m 
VAm08 32  3 0
L45 76  77  40n 
R51 58  76  2m 
L44 78  79  40n 
R50 65  78  2m 
Switch4 80  81  1 0 switch_4 off 
L43 82  83  40n 
R49 84  82  2m 
L42 85  86  40n 
R48 87  85  2m 
L41 88  89  40n 
VAm09 30  3 0
R47 90  88  2m 
L40 91  92  40n 
R46 93  91  1m 
Switch3 94  95  1 0 switch_3 off 
L39 96  97  40n 
R45 98  96  1m 
L38 99  100  40n 
R44 101  99  1m 
L37 102  103  40n 
R43 104  102  1m 
VAm10 26  3 0
L36 105  106  40n 
R42 107  105  1m 
L35 108  109  40n 
R41 110  108  1m 
L34 59  111  200n 
C23 84  0  830u  ic = 3k 
L33 61  112  200n 
R34 113  114  4 
L32 62  115  200n 
C22 48  68  1u  ic = 3k 
L31 67  116  200n 
R33 117  118  4 
L30 69  119  200n 
C21 48  54  1u  ic = 3k 
L29 73  120  200n 
R32 121  122  4 
L28 114  123  200n 
C20 87  0  830u  ic = 3k 
L27 118  124  200n 
R31 125  126  4 
L26 122  127  200n 
C19 55  72  1u  ic = 3k 
L25 126  128  200n 
R30 129  130  4 
L24 130  131  200n 
C18 55  57  1u  ic = 3k 
R29 132  133  4 
L23 133  8  200n 
L22 134  23  1.122u 
R27 111  134  3.33m 
L21 135  24  1.122u 
R26 112  135  3.33m 
L20 136  25  1.122u 
R25 115  136  3.33m 
L19 137  29  1.122u 
R24 116  137  3.33m 
L18 138  31  1.122u 
R23 119  138  3.33m 
L17 139  33  1.122u 
R21 120  139  3.33m 
L16 140  35  1.122u 
R20 123  140  3.33m 
L15 141  37  1.122u 
R18 124  141  3.33m 
L13 142  40  1.122u 
R15 127  142  3.33m 
L2 143  41  1.122u 
R3 128  143  3.33m 
L0 144  42  1.122u 
C17 13  132  1u  ic = 3k 
R10 145  0  4 
R8 146  0  4 
C16 90  0  830u  ic = 3k 
R6 147  0  4 
C15 63  113  1u  ic = 3k 
VAm_c1 148  0 0
R5 149  0  4 
C14 63  146  1u  ic = 3k 
R2 150  0  4 
C13 93  0  830u  ic = 3k 
IVm_C1 109  0 0
C12 70  117  1u  ic = 3k 
R1 151  0  4 
diode5 0  55 model_diode 
R0 131  144  3.33m 
R28 152  15  6m 
L14 75  152  200n 
diode22 16  59 model_diode 
diode4 0  63 model_diode 
L12 77  153  200n 
R22 153  20  6m 
diode21 21  61 model_diode 
C11 13  145  1u  ic = 3k 
R19 154  27  6m 
L11 79  154  200n 
diode16 9  15 model_diode 
C10 70  147  1u  ic = 3k 
diode20 28  62 model_diode 
diode19 44  67 model_diode 
C9 98  0  830u  ic = 3k 
R17 155  43  6m 
diode3 0  70 model_diode 
L9 83  155  200n 
L8 86  156  200n 
diode15 0  20 model_diode 
C8 80  121  1u  ic = 3k 
R16 156  48  6m 
diode18 49  69 model_diode 
C7 80  149  1u  ic = 3k 
diode17 56  73 model_diode 
diode2 0  80 model_diode 
R14 157  55  6m 
L7 89  157  200n 
L6 92  158  200n 
diode14 0  27 model_diode 
C6 101  0  830u  ic = 3k 
diode13 64  114 model_diode 
R13 158  63  6m 
R12 159  70  6m 
C5 94  125  1u  ic = 3k 
diode12 71  118 model_diode 
L5 97  159  200n 
diode8 0  43 model_diode 
diode1 0  94 model_diode 
L4 100  160  200n 
C4 94  150  1u  ic = 3k 
R9 160  80  6m 
diode11 81  122 model_diode 
C3 104  0  830u  ic = 3k 
C2 18  129  1u  ic = 3k 
diode 10  13 model_diode 
diode10 95  126 model_diode 
L3 109  161  200n 
R 162  94  6m 
R7 161  13  6m 
L1 103  162  200n 
C1 18  151  1u  ic = 3k 
diode9 19  130 model_diode 
diode0 0  18 model_diode 
L 106  163  200n 
C0 110  148  830u  ic = 3k 
R4 163  18  6m 
diode6 14  133 model_diode 
diode7 0  48 model_diode 
C 107  0  830u  ic = 3k 

.model switch_1 sw  vt = 1.0   ron = 0.5m   roff = 1gig  

.model switch_2 sw  vt = 2   ron = 0.5m   roff = 1gig  

.model switch_3 sw  vt = 3   ron = 0.5m   roff = 1gig  

.model switch_4 sw  vt = 4   ron = 0.5m   roff = 1gig  

.model switch_5 sw  vt = 5   ron = 0.5m   roff = 1gig  

.model switch_6 sw  vt = 6   ron = 0.5m   roff = 1gig  

.model switch_7 sw  vt = 7   ron = 0.5m   roff = 1gig  

.model switch_8 sw  vt = 8   ron = 0.5m   roff = 1gig  

.model switch_9 sw  vt = 9   ron = 0.5m   roff = 1gig  

.model switch_10 sw  vt = 10   ron = 0.5m   roff = 1gig  

.model switch_11 sw  vt = 11   ron = 0.5m   roff = 1gig  

.model switch_12 sw  vt = 12   ron = 0.5m   roff = 1gig  

.model model_diode D  rs = 0.17m  


.OPTIONS  itl4 = 50  
.TRAN  5n 500u 0 50n uic
.END
